US07691877B2
2-Chloro-3-nitro-6-trifluoromethyl-pyridin-4-ylamine
Benzyl-(2-chloro-3-nitro-6-trifluoromethyl-pyridin-4-yl)-amine (3.1 g, 9.3 mmol) was stirred in 5 ml concentrated sulphuric acid for 0.5 h before cautiously pouring the solution into a beaker of crushed ice. Solid K2CO3 was added portion-wise until a basic pH was achieved and the aqueous extracted with 2×50 ml EtOAc. The combined organics were dried over MgSO4 and concentrated in vacuo to afford 2.2 g of the title compound as a pale yellow solid.

reactant | Benzyl-(2-chloro-3-nitro-6-trifluoromethyl-pyridin-4-yl)-amine | 9.3 mmol, 3.1 g | C(C1=CC=CC=C1)NC1=C(C(=NC(=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C13H9ClF3N3O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Chloro-3-nitro-6-trifluoromethyl-pyridin-4-ylamine | 2.2 g | ClC1=NC(=CC(=C1[N+](=O)[O-])N)C(F)(F)F | C6H3ClF3N3O2
